US06548493B1
3,4-Dihydro-1(2H)-quinolinamine hydrochloride (5.0 g, 27 mmol) and 1,3-cyclohexanedione (3.1 g, 27 mmol) was mixed in AcOH (4.3 mL) and H2O (4.3 mL). The mixture was heated at 40° C. for 10 min until dissolved completely. The mixture was then concentrated to dryness. The residue was washed with acetonitrile then filtered to yield 3-(3,4-dihydro-1(2H)-quinolinylimino)-1-cyclohexen-1-ol hydrochloride (5.2 g, 69%) as a yellow solid.

reactant | 3,4-Dihydro-1(2H)-quinolinamine hydrochloride | 27 mmol, 5.0 g | Cl.N1(CCCC2=CC=CC=C12)N
reactant | 1,3-cyclohexanedione | 27 mmol, 3.1 g | C1(CC(CCC1)=O)=O | C6H8O2
solvent | AcOH | 4.3 mL | CC(=O)O | C2H4O2
solvent | H2O | 4.3 mL | O | H2O
product | 3-(3,4-dihydro-1(2H)-quinolinylimino)-1-cyclohexen-1-ol hydrochloride | 5.2 g, 69% | Cl.N1(CCCC2=CC=CC=C12)N=C1C=C(CCC1)O | InChI=1S/C15H18N2O.ClH/c18-14-8-3-7-13(11-14)16-17-10-4-6-12-5-1-2-9-15(12)17;/h1-2,5,9,11,18H,3-4,6-8,10H2;1H
